US04334089
2-Oxo-6-phenylcaproic acid
47.9 g of 5-phenylvaleric acid ethyl ester are added to a sodium ethylate suspension, prepared from 6.4 g of sodium and 100 ml of ethanol with subsequent evaporation of excess ethanol and addition of 100 ml of toluene. 44.1 g of diethyl oxalate are added dropwise, whilst stirring, and the mixture is heated under reflux for 2.5 hours. After cooling, the solution is stirred with 500 ml of ice-water and the mixture is acidified to pH 2 with 2 N sulphuric acid. Extraction several times with methylene chloride gives, after drying, filtration through a short silica gel column and concentration, 62.1 g of 3-ethoxycarbonyl-2-oxo-6-phenylhexanoic acid ethyl ester, which is reacted according to (a), without further purification.

reactant | 5-phenylvaleric acid ethyl ester | 47.9 g | C(C)OC(CCCCC1=CC=CC=C1)=O | C13H18O2
reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 6.4 g | [Na] | Na
reactant | diethyl oxalate | 44.1 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sulphuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Oxo-6-phenylcaproic acid | O=C(C(=O)O)CCCCC1=CC=CC=C1 | C12H14O3
